Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My counselor sent me because I'm depressed"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old woman with a past medical history 
significant for depression, anxiety and prior suicidal attempt 
at ___ years old who presents with her counselor from Mass Art 
for suicidal ideation. 

Patient states she is here because her counselor was worried 
about her safety. Patient has had increased suicidal thoughts 
and ideation lately. The thoughts do not occur every day but 
when she is anxious and depressed it gets worse. She did have a 
plan to "drive off the highway". She has "felt out of control" 
with her emotions lately and expressed this to her counselor who 
had a school police drive them to the ED. 

She reports having a prior suicidal attempt when she was ___ 
years old. She believes this was triggered by her family 
relations. At the time her parents were going through a divorce 
and her mother would say terrible things to her such as "you're 
too fat I wish I had a dead child instead of an obese kid". At 
the time she tried overdosing on sleeping pills. She has not had 
another suicidal attempt since that time. She notices that since 
then her "drug of
choice" has been food and she used to eat until feeling sick. 
She has since stopped and is trying to lose weight, work out and 
eat healthier.  Patient is concerned about her thoughts and the 
effect it could have on herself in the future and future 
relationships. 

In terms of her past psychiatric history she has been diagnosed 
with depression and anxiety. She sees a school counselor but she 
does not currently take any medications. She was started 
Bupropion  by her PCP ___ 3 months ago but she discontinued 2 
weeks after starting because it "made her feel different" and it 
wasn't working. She believes marijuana helps her with the 
anxiety and depression. She uses this ___ times a week as needed 
symptomatically.  

She reports having a difficult childhood with a history of abuse 
but was not forthcoming as to what happened. She did share that 
her mother was verbally abusive, said hurtful things and would 
tell her "you're crazy". She expresses that she often doesn't 
feel like she is good enough and people do not like her.  

In terms of support system she does have a church group she 
belongs to called ___. She lives with her boyfriend and she 
has supportive friends in ___. She does not have any family 
members in the area. She does see a counselor at school but does 
not see a psychiatrist. She notes that she has the tendency not
to tell people when she needs help and is working on this.
 
Past Medical History:
Medical Hx:
- None

Psychiatric Hx: 
Hospitalizations: None
- Current treaters and treatment: She has seen a school 
counselor
since ___. She is unsure of the counselors name.   
- Medication and ECT trials: Her primary care doctor prescribed 
___
Wellbutrin about three months ago but she self d/c'ed this
medication 2 weeks after onset because it made her "feel
different" and she does not like taking medications. 
- ___: Attempted overdose at age ___ as per HPI.  
- Harm to others: None
- Trauma: Endorses significant emotional trauma from her mother. 

Also reports being raped at age ___, with a history of flashbacks
and nightmares that have improved since working through this in
therapy. 
 
Social History:
___
Family History:
- Paternal grandfather was diagnosed with schizophrenia. 
- Father may have depression but not culturally acceptable to 
see psychiatrist so no formal diagnosis. As far as she knows he 
has not had suicidal attempts
 
Physical Exam:
  *VS:  T 98.6, BP 126/82, HR 64, RR 16, 100% RA
  Neurological:
  *station and gait: within normal limits
  *tone and strength: normal bulk and tone; moves upper and
lower extremities spontaneously and with full range of motion.
  cranial nerves: CN ___ in tact and symmetric to
observation
  abnormal movements: None observed
  *Appearance: ___ young woman wearing a ___ and
scrub bottoms, in no acute distress
  Behavior: Cooperative, engaged, appropriate eye contact
  *Mood and Affect: "good"; affect more full range,
appropriate, ___
  *Thought process: Logical and linear without LOA
  *Thought Content: No SI/HI; No AH/VH; No paranoia or 
delusions;
patient does not appear to be responding to internal stimuli
  *Judgment and Insight: Improving/improving
  *Attention, *orientation, and executive function: In tact
  *Memory: In tact to interview and recent events
  *Fund of knowledge: Appropriate for level of education
  *Speech: Spontaneous, with regular rate, rhythm and prosody
  *Language: Fluent ___ speaker without paraphasic errors

 
Pertinent Results:
___ 04:45PM   ___ UREA ___ 
___ TOTAL ___ ANION ___
___ 04:45PM   ___ this
___ 04:45PM   ___ 
___
___ 04:45PM   ___ 
___
___ 04:45PM   ___ 
___ IM ___ 
___
___ 04:45PM   PLT ___
___ 03:49PM URINE  ___
___ 03:49PM URINE  ___
___ 03:49PM URINE  ___ 
___
___ 03:49PM URINE  ___ SP ___
___ 03:49PM URINE  ___ 
___ 
___
___ 03:49PM URINE  ___ 
___
___ 03:49PM URINE  ___
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  She signed a ___ request to leave 
on day of admission (___)  She was also placed on 15 
minute checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Major Depressive Disorder, Recurrent, Severe
- Provided individual, group, and milieu therapy
- Patient was initially apprehensive to starting medications.  
Team provided psychoeducation on antidepressant medications, and 
patient was ultimately in agreement to starting an 
antidepressant at a low dose.  Subsequently initiated sertraline 
at 12.5 mg Daily, which was gradually ___ to 25 mg PO 
Daily 
- Provided Hydroxyzine 25 mg PO BID PRN Anxiety or insomnia, 
which was continued at once per day as needed on discharge.  

3. SUBSTANCE USE DISORDERS:
# Cannabis Use 
- Patient endorses cannabis use ___ times per week in order to 
alleviate some of her anxiety symptoms.  
- Provided psychoed re: effects of cannabis on mood and anxiety. 
 Patient was engaged in these discussions and expressed 
understanding and likely cessation/reduction following 
discharge.  

4. MEDICAL
None

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills.  The patient was also 
appropriately interactive with peers in milieu.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
- Patient is estranged from her mother and did not want the team 
to contact her.
- Team left a message for patient's PCP (Dr. ___ 
informing her of patient's psychiatric admission.  Team also 
scheduled a ___ appointment with Dr. ___ prior to 
discharge.  

#) INTERVENTIONS
- Medications: Initiated Sertraline, which was gradually 
uptitrated to 25 mg daily.  This was ___ without 
reported side effects.  Patient was instructed to continue 
Sertraline at 25 mg for 3 more days, and to increase to 50 mg on 
___ (on day PHP begins).  Also initiated 
hydroxyzine 25 mg PO Daily on ___ basis for anxiety.  
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: PHP appointment made for patient, 
as well as PCP appointment and ___ referral for a ___ 
therapist.  
- Behavioral Interventions: Encouraged relaxation and 
mindfulness techniques to help alleviate some symptoms of 
anxiety.   
- Guardianships: None

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon escalating thoughts 
of harming self.  Her static factors noted at that time include 
history of suicide attempts, age, single marital status.

The modifiable risk factors were addressed during this 
admission:
- Suicidal ideation: Patient reported resolution of suicidal 
thoughts upon admission to Deac 4 and in particular felt safe in 
the contained environment of the inpatient unit.  
- No outpatient providers: ___ up aftercare for patient at ___, 
and provided referral for ___ therapist.  

Finally, the patient is being discharged with many protective 
risk factors, including ___ nature, ___, 
reality testing ability, and academic achievement.   

Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of ___ nor 
danger to others and can safely ___ to a lower level of 
psychiatric care at this time (PHP).

Our Prognosis of this patient is fair.  

 
Medications on Admission:
None
 
Discharge Medications:
1.  HydrOXYzine 25 mg PO DAILY:PRN anxiety, insomnia 
2.  Sertraline ___ mg PO DAILY in am: Take ___ tablet (25 mg) 
for 3 days, then increase to 50 mg on ___ (day 
PHP begins)

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, Recurrent, Severe
Unspecified Anxiety Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___